* D:\GitHub\physics_laboratory_2020_2021\AMPLIFICATORI OPERAZIONALI\Simulations\Differentiator\Differentiator_simulation.asc
V1 V+ 0 15
V2 V- 0 -15
XU1 0 N003 V+ V- OUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N002 IN 4.7k
Rf1 OUT N003 47k
Rg1 IN N001 25
Vg N001 0 SINE(0 0.1 1k 0 0 0 200) AC 0.1 0
C1 N003 N002 100µ
R3 0 IN 50
.ac dec 10 100 1Meg
.lib UniversalOpamps2.sub
.backanno
.end
